US04936904
A 200 ml flask was fitted with a N2 inlet, a magnetic stirring bar and a condenser. 50 mls of methanol, 8.0 gms of trimethyl orthoformate, 5.2 gms of concentrated H2SO4 and 5.0 gms of 3-benzoyl-4-hydroxy-6-phenyl-pyr-2-one were added. The resulting mixture was then refluxed for 3 days, cooled, poured into water and extracted with methylene chloride (300 mls). The organic extracts were combined and washed with water. Removal of the solvent provided 4.4 gms of 2,6-diphenyl-3-methoxycarbonyl-pyr-4-one (85%). Recrystallization from methylene chloride/ether provide material with a melting point=150°-1°.

reactant | methanol | 50 mls | CO | CH4O
reactant | trimethyl orthoformate | 8.0 gms | C(OC)(OC)OC | C4H10O3
reactant | H2SO4 | 5.2 gms | OS(=O)(=O)O | H2O4S
reactant | 3-benzoyl-4-hydroxy-6-phenyl-pyr-2-one | 5.0 gms | C(C1=CC=CC=C1)(=O)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C18H12O4
solvent | water | O | H2O
product | 2,6-diphenyl-3-methoxycarbonyl-pyr-4-one | 4.4 gms, 85% | C1(=CC=CC=C1)C=1OC(=CC(C1C(=O)OC)=O)C1=CC=CC=C1 | C19H14O4
